datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:12])([H:10])[H:11],111.253
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:9])[H:10].[H:8][H:24],28.564168
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:7])([H:8])[H:9],137.988
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[N:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][N:9]([H:10])[H:11],27.90728
[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:8])[H:7]>>[C:0](=[C:1][C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8],105.4368
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:6],58.8689
[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]2([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])[C:9]12[H:20],69.8728
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][C:11]([H:12])([H:13])[H:14],29.932336
[C:0](#[C:1][c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[C:8]#[C:9][H:15])[H:10].[H:16]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[C:8]#[C:9][H:15])[H:16])[H:10],28.852864
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:14])[H:15])[H:13])([H:11])([H:12])[H:18].[C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17],224.898368
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([O:15][O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:16][O:15][C:14]([H:17])([H:18])[H:19],76.48352
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([O:10][C:11]([O:12][O:13])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:13][O:12][C:11]([O:10][C:9]([H:14])([H:15])[H:16])([H:17])[H:18],74.01496
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:12],109.579
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[N:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][N:9]([H:10])[H:11],49.7896
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:7])[H:6],2.59408
[O:0]([O:1][C:2]([C:3]([O:4][H:11])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])[H:9])[H:8]>>[O:0][H:8].[O:1]=[C:2]([C:3]([O:4][H:11])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])[H:9],65.6888
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17],0.0
